US07375226B2
Rac-8-Trifluoromethoxy-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole
To 8-trifluoromethoxy-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole (0.41 g) in THF (2.2 mL) and TFA (4.4 mL) at 0° C. was added portion wise sodium borohydride (0.124 g). The reaction mixture was allowed to warm up to room temperature and stirred for 35 minutes. After such time, the reaction mixture was concentrated in vacuo, and the residue was dissolved in dichloromethane and poured over water. A sodium hydroxide solution (10 M) was the added until reaching pH 13.5. After 15 minutes, the phases were separated. The aqueous phase was extracted with dichloromethane twice. The combined organic layers were then washed with brine, dried with magnesium sulfate, concentrated in vacuo and purified by column chromatography to yield the title compound (0.31 g, 76%).

reactant | 8-trifluoromethoxy-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 0.41 g | FC(OC1=CC=2C=C3N(C2C=C1)CCNC3)(F)F | C12H11F3N2O
reactant | sodium borohydride | 0.124 g | [BH4-].[Na+]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | TFA | 4.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Rac-8-Trifluoromethoxy-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 0.31 g, 76% | FC(OC1=CC=2CC3N(C2C=C1)CCNC3)(F)F | C12H13F3N2O
